US06664255B1
p-Cyanobenzaldehyde (38.13 mmoles, 5 g) was stirred in 50 mL of tetrahydrofuran at 0° C. under nitrogen while lithium bis(trimethylsilyl)amide (83.89 mmoles, 84 mL of a 1.0M solution in tetrahydrofuran) was added dropwise over 10 min. After addition the mixture was allowed to warm to room temperature and stirred for 3 hr. Water (50 mL) was then added and stirring continued for 30 min. Then 2.5N sodium hydroxide (763 mmoles, 305 mL) and di-tert-butyl dicarbonate (83.89 mmoles, 18.309 g) were added along with tetrahydrofuran (100 mL) and the mixture was allowed to stir for 3 hr. The layers were then separated. The tetrahydrofuran layer was diluted with ethyl acetate and washed with brine. The water layer was extracted twice with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered, the solvent removed in vacuo. The residue was chromatographed medium pressure liquid chromatography with 30% ethyl acetate/hexanes to give 4.03 g of desired 4-(t-butoxycarbonylamidino)benzaldehyde in 43% yield. 1H NMR (300 MHz, CDCl3) δ10.03 (s, 1H), 7.97 (d, 2H) 7.89 (d, 2H), 1.53 (s, 9H).

reactant | p-Cyanobenzaldehyde | 38.13 mmoles, 5 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | sodium hydroxide | 763 mmoles, 2.5N, 305 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 83.89 mmoles, 18.309 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | Water | 50 mL | O | H2O
product | 4-(t-butoxycarbonylamidino)benzaldehyde | 4.03 g, 43% yield | C(C)(C)(C)OC(=O)NC(=N)C1=CC=C(C=O)C=C1 | C13H16N2O3
